US05225532
c) Boc-Gly-L-Arg-pNA.HBr
1 g (2.19 mmol) of H-L-Arg-pNA.2HBr is dissolved in 10 ml of DMF, and 0.854 ml (6.57 mmol) of DIEA is then added. In another vessel, a solution of 384 mg (2.19 mmol) of Boc-Gly-OH in 5 ml of DMF is neutralized with 0.285 ml of DIEA. The two solutions obtained in this way are mixed and 970 mg of Bop are added to the resulting medium, the latter being kept at RT; also, the pH is kept at a value of between 7 and 8 by the addition of small portions of DIEA throughout the reaction. After one hour, the reaction has completely finished and the reaction medium is evaporated to dryness under vacuum; the evaporation residue is taken up with an AcOEt/MeOH mixture and extracted with a 0.5M aqueous solution of NaHCO3. The organic phase is dried over sodium sulfate, concentrated under vacuum and then precipitated in ether (MeOMe or EtOEt) to give 874 mg (yield: 75%) of the expected product.

reactant | H-L-Arg-pNA.2HBr | 2.19 mmol, 1 g | N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C([N+](=O)[O-])C=C1.Br.Br
reactant | DIEA | 6.57 mmol, 0.854 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-Gly-OH | 2.19 mmol, 384 mg | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | DIEA | 0.285 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Boc-Gly-L-Arg-pNA.HBr | 874 mg, yield: 75% | N(CC(=O)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C.Br | InChI=1S/C19H29N7O6.BrH/c1-19(2,3)32-18(29)23-11-15(27)25-14(5-4-10-22-17(20)21)16(28)24-12-6-8-13(9-7-12)26(30)31;/h6-9,14H,4-5,10-11H2,1-3H3,(H,23,29)(H,24,28)(H,25,27)(H4,20,21,22);1H/t14-;/m0./s1
